US04196299
756 g (6 moles) of acetyl-thiophene and 613 g (8.4 moles) of n-butylamine are azeotropically dehydrated in 2598 g of toluene in the presence of 15 g of formic acid. It is then concentrated under vacuum and mixtures of toluene and amine are thus recovered; 1081.6 g of acetylthiophene N-n-butylamine at 90% purity are obtained, namely a yield of 89.6%.

reactant | acetyl-thiophene | 6 moles, 756 g | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | n-butylamine | 8.4 moles, 613 g | C(CCC)N | C4H11N
solvent | toluene | 2598 g | C1(=CC=CC=C1)C | C7H8
catalyst | formic acid | 15 g | C(=O)O | CH2O2
product | acetylthiophene N-n-butylamine | 1081.6 g, yield of 89.6% | C(CCC)N.C(C)(=O)C=1SC=CC1 | InChI=1S/C6H6OS.C4H11N/c1-5(7)6-3-2-4-8-6;1-2-3-4-5/h2-4H,1H3;2-5H2,1H3
